US06133294
5-Methyl-6-methylthio-3-pyridinecarboxamide
To a stirred s odiu m methoxide solution (25 wt % in methanol; 10.53 g, 48.7 mmol) diluted in dry methanol (100 mL) at room temperature under a nitrogen atmosphere was added hydroxylamine hydrochloride (3.38 g, 48.7 mmol) and 5-methyl-6-methylthio-3-pyridinecarbonitrile (2.00 g, 12.2 mmol). The white suspension was stirred at room temperature for 7 days, when it was evaporated in vacuo. The crude white solid was chromatographed on silica gel (25% EtOAc/pentane) yielding the desired product (1.66 g, 75%) as a white fluffy powder.

reactant | methoxide | 48.7 mmol, 10.53 g | C[O-]
reactant | hydroxylamine hydrochloride | 48.7 mmol, 3.38 g | Cl.NO
reactant | 5-methyl-6-methylthio-3-pyridinecarbonitrile | 12.2 mmol, 2.00 g | CC=1C=C(C=NC1SC)C#N | C8H8N2S
solvent | methanol | 100 mL | CO | CH4O
product | 5-Methyl-6-methylthio-3-pyridinecarboxamide | 1.66 g, 75% | CC=1C=C(C=NC1SC)C(=O)N | C8H10N2OS
